US04462999
Trifluoroacetic acid (8.4 ml) was added to a solution of tert-butyl 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate (syn isomer) (2.1 g) in methylene chloride (4.2 ml) and anisole (2.1 ml) under ice-cooling, and the mixture was stirred at ambient temperature for 1.5 hours. The resultant solution was added dropwise to diisopropyl ether (100 ml) and the precipitated substance was collected by filtration. This substance was added to a mixture of water and ethyl acetate, followed by adjusting to pH 7.5 with 10% aqueous sodium hydroxide. The separated aqueous layer was saturated with sodium chloride and then adjusted to pH 1.5 with 10% hydrochloric acid. After extraction with a mixture of ethyl acetate and tetrahydrofuran (1:1 by volume), the extract was washed with a saturated aqueous sodium chloride, dried over magnesium sulfate and then evaporated. The residue was washed with diethyl ether and collected by filtration to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid (syn isomer) (1.14 g).

reactant | Trifluoroacetic acid | 8.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 2.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C)(C)C)C1=O)=NOCC(=O)OC(C)(C)C | C24H33N5O8S2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 4.2 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 2.1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid | 1.14 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O)=NOCC(=O)O | C16H17N5O8S2
